US03957782
b. 6-Ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride
22.7 g. of 6-ethoxy-1-ethyl-3-methyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxylic acid (0.09 mol.) and 250 ml. of thionyl chloride are heated at reflux temperature for two hours. After vacuum removal of excess thionyl chloride, the residual 6-ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride is recrystallized from hexane, yield 20.5 g. (85%), m.p. 109°-111°.

reactant | 6-ethoxy-1-ethyl-3-methyl-1H-pyrazolo-[3,4-b]pyrazine-5-carboxylic acid | 0.09 mol | C(C)OC1=C(N=C2C(=N1)N(N=C2C)CC)C(=O)O | C11H14N4O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 6-Ethoxy-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyrazine-5-carbonyl chloride | C(C)OC1=C(N=C2C(=N1)N(N=C2C)CC)C(=O)Cl | C11H13ClN4O2
